US08609680B2
To a stirred solution of 2-(2-iodo-6-methylpyridin-3-yloxy)ethanol (350 g, 1.25 mol) in anhydrous DMF (3.5 L) was added NaH (60 g, 1.5 mol), Cu (33.7 g, 0.53 mol) and CuSO4 (100 g, 0.63 mol) at 0° C. After the addition, the mixture was stirred at 100° C. overnight. After cooling, the solvent was removed in vacuo and the residue was diluted with water (1.5 L). The aqueous solution was extracted with CH2Cl2 (3×350 mL). The combined organic layers were washed with brine (2×100 mL), dried over anhydrous Na2SO4 and concentrated. The residue was purified via column chromatography (silica gel, EtOAc/petroleum ether 1:20) to yield 6-methyl-2,3-dihydro-[1,4]dioxino[2,3-b]pyridine (30.0 g, 16%) as a yellow oil.

reactant | 2-(2-iodo-6-methylpyridin-3-yloxy)ethanol | 1.25 mol, 350 g | IC1=NC(=CC=C1OCCO)C | C8H10INO2
reactant | NaH | 1.5 mol, 60 g | [H-].[Na+]
solvent | DMF | 3.5 L | CN(C)C=O | C3H7NO
catalyst | CuSO4 | 0.63 mol, 100 g | [O-]S(=O)(=O)[O-].[Cu+2]
product | 6-methyl-2,3-dihydro-[1,4]dioxino[2,3-b]pyridine | 30.0 g, 16% | CC1=CC=C2C(=N1)OCCO2 | C8H9NO2
